US05159079
5 [t-Butyl(dimethyl)silyloxymethyl]-2-piperidone
To a solution of 5.8 g tert-butyl(dimethyl)silyl chloride and 5.0 g of 5-hydroxymethyl-2-piperidone in 150 ml of anhydrous DMF was added 5.3 g of imidazole. After stirring for 36 hours at 22° C., the mixture was evaporated under vacuum to remove most of the DMF. Following the addition of water, the residue was extracted with three portions of ethyl acetate. The combined organic extracts were washed with water, 0.5N HCl, water and brine, dried over magnesium sulfate and evaporated. The resulting oil was chromatographed over silica gel eluting with 5% methanol in chloroform to give 4.7 g of the title compound as an oil: MS m/z 244 (M+), 186 [M+ -58(t-butyl)]; 300-MHz 1H NMR (CDCl3) δ0.05 (s, 6 H), 0.85 (s, 9 H), 1.42-1.57 (m, 1 H), 1.77-1.88 (m, 1 H), 1.89-2.03 (m, 1 H), 2.25- 2.45 (m, 2 H), 3.03 (t, J=9 Hz, 1 H), 3.30-3.41 (m, 1 H), 3.45-3.59 (m, 2 H), 5.95 (s, 1 H).

reactant | tert-butyl(dimethyl)silyl chloride | 5.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 5-hydroxymethyl-2-piperidone | 5.0 g | OCC1CCC(NC1)=O | C6H11NO2
reactant | imidazole | 5.3 g | N1C=NC=C1 | C3H4N2
reactant | DMF | 150 ml | CN(C)C=O | C3H7NO
product | [t-Butyl(dimethyl)silyloxymethyl]-2-piperidone | 4.7 g | [Si](C)(C)(C(C)(C)C)OCN1C(CCCC1)=O | C12H25NO2Si
